US09163008B2
Preparation of 6-((S)-1-Carbamoyl-ethylamino)-2-[4-(4-cyano-phenoxy)-phenyl]-pyrimidine-4-carboxylic acid amide (Cpd No. 66)
A 50-mL vial with a screw-top septum was charged with 6-((S)-1-carbamoyl-ethylamino)-2-(4-hydroxy-phenyl)-pyrimidine-4-carboxylic acid amide (100 mg, 0.3 mmol), 4-fluorobenzo-nitrile (40 mg, 0.3 mmol), potassium carbonate (92 mg, 0.7 mmol), and N,N-dimethylformamide (5 mL). The flask was purged with nitrogen and heated to 100° C. for 16 h at which time the reaction was complete. The mixture was then diluted with 20 mL water and extracted with 2×20 mL EtOAc. The combined organic layers were dried over sodium sulfate and concentrated under vacuum. The residue was dissolved in 20% methanol/chloroform and passed through a short plug of silica gel. The fractions containing the desired material were concentrated and suspended in a solution of 20% EtOAc/hexane. The suspension was filtered by vacuum and air was allowed to pass over the cake for one hour. The cake was then transferred to a scintillation vial, powdered, and heated under vacuum for one hour to provide the title compound as a white solid (44 mg, 33%). 1H NMR (DMSO-d6): 8.66-8.59 (m, 2H), 8.35-8.28 (s, 1H), 8.02-7.95 (m, 1H), 7.91-7.84 (m, 2H), 7.79-7.70 (s, 1H), 7.59-7.51 (s, 1H), 7.25-7.15 (m, 4H), 7.14-7.08 (s, 1H), 7.05-6.97 (s, 1H), 4.64-4.49 (m, 1H), 1.43-1.31 (m, 3H). LC/MS: m/z 402[M+H]+.

reactant | 6-((S)-1-carbamoyl-ethylamino)-2-(4-hydroxy-phenyl)-pyrimidine-4-carboxylic acid amide | 0.3 mmol, 100 mg | C(N)(=O)[C@H](C)NC1=CC(=NC(=N1)C1=CC=C(C=C1)O)C(=O)N | C14H15N5O3
reactant | 4-fluorobenzo-nitrile | 0.3 mmol, 40 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | potassium carbonate | 0.7 mmol, 92 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 6-((S)-1-Carbamoyl-ethylamino)-2-[4-(4-cyano-phenoxy)-phenyl]-pyrimidine-4-carboxylic acid amide | 44 mg, 33% | C(N)(=O)[C@H](C)NC1=CC(=NC(=N1)C1=CC=C(C=C1)OC1=CC=C(C=C1)C#N)C(=O)N | C21H18N6O3
